US04954509
1-(piperidin-1-yl)methyl-2-(4-trifluoromethylphenyl)acetyl5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Prepared as Ex. No. 34, from 1.65 g (4.06 mmoles) of 1-(piperidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, 2.6 ml (18.50 mmoles) of Et3N and 2.2 g (9.89 mmoles) of 4-trifluoromethylphenyl acetyl chloride in 30 ml of dry chloroform.

reactant | 1-(piperidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | 4.06 mmoles, 1.65 g | Br.Br.N1(CCCCC1)CC1NCCC2=C(C=CC=C12)O
reactant | Et3N | 18.50 mmoles, 2.6 ml | CCN(CC)CC | C6H15N
reactant | 4-trifluoromethylphenyl acetyl chloride | 9.89 mmoles, 2.2 g | FC(C1=CC=C(C=C1)CC(=O)Cl)(F)F | C9H6ClF3O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(piperidin-1-yl)methyl-2-(4-trifluoromethylphenyl)acetyl5-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.N1(CCCCC1)CC1(NCCC2=C(C=CC=C12)O)C(CC1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C24H27F3N2O2.ClH/c25-24(26,27)18-9-7-17(8-10-18)15-22(31)23(16-29-13-2-1-3-14-29)20-5-4-6-21(30)19(20)11-12-28-23;/h4-10,28,30H,1-3,11-16H2;1H
